Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GNR in blood
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ with h/o prostate CA s/p resection and XRT, 
HTN and CKD on dialysis who presents with dysuria and reports of 
positive BCx from ___ clinic.  

Per report patient has frequent UTI s/p XRT in ___. He had been 
on nitrofurantoin for several months as prophylactic treatment, 
and recently discontinued 4 weeks ago. He started noticing 
burning during urination, with white discharge, but no hematuria 
or urgency. In the past three days, patient also noticed 
subjective fever, and chill. ___ clinic took BCx on ___ 
___ which show ___ bottles GNRs (clinic: ___. Also 
reports recent positive UA or UCx from PCP. Prior organisms in 
our records are MRSA and Proteus. Pt otherwise denies HA, SOB, 
cough, N/V/D. He had a fistula in his left arm placed one year 
ago, and started hemodialysis through that port since one month 
ago. There is no recent sickness or sick contacts.  
Hemodynamically stable in ED with VS: 101.0 93 107/61 18 100%/RA 
 
Patient received tylenol, ceftriaxone and vancomycin and 
transferred to the floor for further management and evaluation.  

  
On arrival to the floor, pt was comfortable.  

ROS: headache, vision changes, rhinorrhea, congestion, sore 
throat, cough, shortness of breath, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. 
 
Past Medical History:
Hypertension
Arthritis
Depression
History of MI status post angioplasty
CVA in ___ with residual right-sided weakness
CKD - baseline Cr ___
Gout
Prostate cancer ___ 7 status post robotic assisted
laparoscopic prostatectomy and salvage XRT for positive lateral
margins
Partial nephrectomy for complex renal cyst ___ 
S/p cystoscopy with clot evacuation and fulguration ___

 
Social History:
___
Family History:
Pancreatic cancer. Denies any history of
kidney disease or prostate cancer.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
VS - Temp 99.2F, BP 120/68, HR 66, R 18, O2-sat 99% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, slightly decreased air movement 
on left lower lung field, resp unlabored, no accessory muscle 
use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions, fistula site in left arm intact  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait  

PHYSICAL EXAM ON DISCHARGE
VS: T 97.8, BP 160/90, HR 58, RR 18, O2 sat 100% 
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, sclerae anicteric
NECK - supple, no thyromegaly, no JVD
LUNGS - CTA bilat, no r/rh/wh
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions, fistula site in left arm intact  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait  

 
Pertinent Results:
ADMISSION LABS
___ 04:10PM BLOOD WBC-8.0# RBC-3.54* Hgb-11.5* Hct-34.8* 
MCV-98 MCH-32.5* MCHC-33.1 RDW-16.2* Plt ___
___ 04:10PM BLOOD Neuts-78.7* Lymphs-10.5* Monos-6.9 
Eos-3.4 Baso-0.5
___ 05:20PM BLOOD Glucose-129* UreaN-18 Creat-4.9*# Na-140 
K-3.7 Cl-97 HCO3-34* AnGap-13
___ 07:20AM BLOOD Calcium-8.7 Phos-2.4*# Mg-1.9 Iron-16*
___ 04:10PM BLOOD LtGrnHD-HOLD
___ 04:17PM BLOOD Lactate-1.8

DISCHARGE LABS
___ 07:15AM BLOOD WBC-4.4 RBC-3.31* Hgb-10.6* Hct-33.2* 
MCV-100* MCH-32.1* MCHC-32.0 RDW-15.8* Plt ___
___ 07:15AM BLOOD Glucose-120* UreaN-27* Creat-5.4*# Na-139 
K-4.2 Cl-99 HCO3-28 AnGap-16
___ 07:15AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.2
 
Brief Hospital Course:
Mr ___ is a ___ with h/o prostate CA s/p resection and XRT, 
HTN and CKD on dialysis who presents with dysuria and reports of 
positive BCx from ___ clinic concerning for bacteremia.

ACTIVE ISSUES
# Bacteremia
The ___ clinic reported the observation of gram 
negative rods during his dialysis, and was referred to our 
hospital for further evaluation.  Of note, patient reported 
subjective fever, chill and burning during urination, consistent 
with bacteremia.  However, there is no symptoms of SIRS while he 
was on the floor.  Patient was given ceftriaxone and vancomycin 
initially, which was switched on the ___ day of admission to 
cefepime.  The blood culture and sensitivity study from the 
initial positive specimen grew pseudomonas aeruginosa, which was 
sensitive to levofloxacin (this external lab did not run 
sensitivities to cipro).  Patient was discharged with oral 
ciprofloxacin for 14 days.  During this admission, blood culture 
was obtained daily, which all remained negative.  Patient 
remained afebrile, with stable vital signs, and no leukocytosis.
OUTPATIENT ISSUES
-- Patient was asked to take Ciprofloxacin 500 mg daily for 14 
days

# Chronic kidney disease
Patient has history of chronic kidney disease, recently 
requiring hemodialysis.  Patient was scheduled to receive 
hemodialysis on M, W, F.  His medication was hemodialysis dosed. 
 He received dialysis during this hospitalization without 
complications.

CHRONIC ISSUES
Patient has a long history of hypertension, and was treated 
medically.  We continued his outpatient medication regimen, 
which was held on days of dialysis.  His blood pressure was 
monitored closely.  Patient also has documented history of 
hyperlipidemia, gout and detrussor instability.  The equivalent 
of his outpatient medication was provided, and patient tolerated 
without complication.

TRANSITIONAL ISSUES
-- Patient declares a full code.  
-- Patient has an appointment with Dr. ___ on ___ for 
followup.  

 
Medications on Admission:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2
times a day).
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY
(Daily).
3. Nifedipine 90 mg Tablet Sustained Release Sig: One (1) Tablet
Sustained Release PO DAILY (Daily). - not on M, W, F
4. Clonidine 0.1 mg Tablet Sig: 1 in AM and 2 in ___ - not on M, 
W, F
5. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily). - 
not on M, ___, F
6. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY
(Daily).
7. Vitamin d ___ u, 1 every other ___
8. Tylenol ___ mg 2 tablets as needed four times a day
9. Omeprazole 20 mg 1 tablet by mouth daily
10. oxybutynin chloride 2.5 mg bid
11. phoslo 667 mg 2 tablets tid
12. Bumetanide 2 mg 1 po qd - not on M, W, F
13. Simvastatin 20 mg qhs
 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO once a day: Please do not take on days of 
dialysis (M, ___, F).  
3. clonidine 0.1 mg Tablet Sig: Two (2) Tablet PO every 
afternoon: Please do not take on days of dialysis (M, ___, F).  
4. clonidine 0.1 mg Tablet Sig: One (1) Tablet PO every morning: 
Please do not take on days of dialysis (M, ___, F).  
5. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day: Please 
do not take on days of dialysis (M, ___, ___).  
6. bumetanide 2 mg Tablet Sig: One (1) Tablet PO once a day: 
Please do not take on days of dialysis (M, ___, F).  
7. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
8. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. oxybutynin chloride 5 mg Tablet Sig: half Tablet PO BID (2 
times a day).  
12. Vitamin D 50,000 unit Capsule Sig: One (1) Capsule PO every 
other ___.  
13. PhosLo 667 mg Capsule Sig: Two (2) Capsule PO three times a 
day: Please take with meal.  
14. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO once a 
day for 14 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Bacteremia

Secondary:
Chronic renal failure 
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to our hospital from your ___ clinic for the 
presence of bacteria in your blood, likely from a urinary tract 
infection.  You have been initially treated with broad coverage 
antibiotics while you were in the hospital.  The micrology 
result from your ___ clinic came back positive for a 
bacteria called pseudomonas.  The rest of the blood cultures we 
obtained during your hospitalization have all remained negative. 
 You may go home to finish the treatment with antibiotics that 
will cover this bacteria.  You also received hemodialysis during 
this hospitalization, which you tolerated very well.

After going home, please take the following new medication:
-- Ciprofloxacin 500 mg one tablet a day for 14 days
-- You do not need to take nitrofurantoin.  But you may discuss 
that with your urologist.

There is no further changes to your medication or changes to 
your dialysis schedule.

Also, we made an appoitment for you with your primary care 
doctor,   (Please see below for more information)

It has been a privilege to take care you here at ___.  We wish 
you a speedy recovery.
 
Followup Instructions:
___